US05506256
C) (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(4-nitrophenylsulfinyl)ethyl]pyrrolidine
(2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(4-nitrophenylthio)ethyl]pyrrolidine (1.50 g) was subjected to oxidation as in Example 2-A) in dichloromethane using 1.1 equivalent of m-chloroperbenzoic acid to give 894 mg of the title compound.

reactant | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(4-nitrophenylthio)ethyl]pyrrolidine | 1.50 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(CSC2=CC=C(C=C2)[N+](=O)[O-])O)CCC1 | C25H29N3O6S
reactant | dichloromethane | 1.1 equivalent | ClCCl | CH2Cl2
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(4-nitrophenylsulfinyl)ethyl]pyrrolidine | 894 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(CS(=O)C2=CC=C(C=C2)[N+](=O)[O-])O)CCC1 | C25H29N3O7S
